US07049321B2
Synthesis of 2-Ethyl-8-methyl-1-thia-4,8-diaza-spiro[4.5]decane-3-thione, AF510
A mixture of AF267 (214 mg, 1 mmol) and Lawesson's Reagent (280 mg, 0.692 mmol) in acetonitrile (5 ml) was heated under reflux for 17 hrs. The solvent was removed and residue was dissolved in concentrate aqueous sodium carbonate (0.5 ml) and then extracted with ethyl acetate. The extract was dried and the solvent evaporated. The residue (250 mg), recrystallized first from toluene and then from acetonitrile gave pure AF510. 1H-NMR (CDCl3) δ 1.03 (t, CH3CH2), 1.83 (m), 1.93–2.44 (m), 2.30 (s, CH3N), 2.80 (m, 2H), 4.21 (dd, SCH), 8.66 (br, NH) ppm. MS m/e 230 (M30), 197 (M+−SH), 156, 128, 96 (100%).

reactant | AF267 | 1 mmol, 214 mg | CCC1C(=O)NC2(S1)CCN(CC2)C | C10H18N2OS
reactant | Lawesson's Reagent | 0.692 mmol, 280 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-Ethyl-8-methyl-1-thia-4,8-diaza-spiro[4.5]decane-3-thione | C(C)C1SC2(NC1=S)CCN(CC2)C | C10H18N2S2
